US04052506
A sample of 7,8-dimethoxy-1-phenyl-2,3,4,5,-tetrahydro-1H-3-benzazepine weighing 4.32 g. (0.0154 mol), 2.18 g. (0.02 mol) of ethyl bromide and 1.12 g. (0.02 mol) of potassium hydroxide are dissolved in 120 ml. of dry methanol and the solution is refluxed overnight. Evaporation of the solution to dryness gives a mixture which is taken up in ethyl acetate and filtered to remove inorgaic salts. The filtrate is washed with water, dried and evaporated to give 7,8-dimethoxy-3-ethyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine as an oil.

reactant | 7,8-dimethoxy-1-phenyl-2,3,4,5,-tetrahydro-1H-3-benzazepine | 4.32 g | COC1=CC2=C(C(CNCC2)C2=CC=CC=C2)C=C1OC | C18H21NO2
reactant | ethyl bromide | 0.02 mol | C(C)Br | C2H5Br
reactant | potassium hydroxide | 0.02 mol | [OH-].[K+]
reactant | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7,8-dimethoxy-3-ethyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | COC1=CC2=C(C(CN(CC2)CC)C2=CC=CC=C2)C=C1OC | C20H25NO2
